US05051413
1.5 g of E-2-amino-5-phosphono-3-pentenoic acid are suspended in 30 ml of isobutanol and the suspension is saturated with hydrogen chloride gas for 31/2 hours at 70°. After concentration, the residue is dissolved in 10 ml of isobutanol, 10 ml of propylene oxide are added and the precipitate is filtered off. Recrystallisation from water/acetone 1:1 yields E-2-amino-5-phosphono-3-pentenoic acid isobutyl ester, m.p. 163°-164°.

reactant | E-2-amino-5-phosphono-3-pentenoic acid | 1.5 g | NC(C(=O)O)\C=C\CP(=O)(O)O | C5H10NO5P
reactant | hydrogen chloride | Cl | ClH
reactant | isobutanol | 30 ml | C(C(C)C)O | C4H10O
product | E-2-amino-5-phosphono-3-pentenoic acid isobutyl ester | C(C(C)C)OC(C(\C=C\CP(=O)(O)O)N)=O | C9H18NO5P
